US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2,6-bis-[(pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile was treated with 1-phenyl-piperazine in the presence of N-ethyl-diisopropylamine in dioxane at 90° C. during 18 hours to yield 4-(4-phenyl-piperazin-1-yl)-2,6-bis-[(pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile as an amorphous, yellowish solid; MS: [M+H]+=478.

reactant | 4-chloro-2,6-bis-[(pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCC1=NC=CC=C1)NCC1=NC=CC=C1 | C17H14ClN7
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-phenyl-piperazin-1-yl)-2,6-bis-[(pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | C1(=CC=CC=C1)N1CCN(CC1)C1=NC(=NC(=C1C#N)NCC1=NC=CC=C1)NCC1=NC=CC=C1 | C27H27N9
